Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
peanut / tree nut / Levaquin / azithromycin / doxycycline / 
Augmentin
 
Attending: ___.
 
Chief Complaint:
 R knee swelling
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ M w/ hx asthma, "upper respiratory immunodeficiency" (h/o 
PNA >5x w/ hospitalization for 4 weeks, regularly immunized w/ 
pneumovax) who presents w/ R knee pain, redness, swelling.

Patient notes 1 week ago, felt febrile, sweaty, sore throat, 
congestion went to student ___ at ___ w/ temp of 100.0, 
improved the following day. 

Four days prior to admission noted a pimple on his knee, which 
his teammate popped w/ no further issues ___, able to go 
to baseball practice). On day prior to admission, patient notes 
that after walking around for some time, his knee began to hurt, 
which eventually progressed to ___ pain. He developed 
associated erythema which has been spreading. No associated 
fevers, chills nightsweats. Notes chronic trauma to the knee in 
the form of sliding on his knee for baseball, where a scab will 
stay open and draining for weeks at a time (last open in 
___. No pain in any other joints. Sexually active w/ one 
female in last year, uses protection w/ condoms. No IVDU. Never 
has had joint issues in the past. No previous trauma/surgery in 
R knee. No morning stiffness. 

ROS otherwise negative. 

 
In the ED, initial vital signs were: T 98.8 P 70 BP 177/77 R 18 
O2 sat 99% RA.  
- Exam notable for:  R knee swelling, redness, warmth, full ROM 
on knee flexion
- Labs were notable for leukocytosis 13.0 with 70.9%N. CRP 7.7. 
Normal chem panel. Blood cultures drawn.

- Studies performed include

R knee ultrasound: Thin sliver complex fluid measuring up to 4 
mm in thickness and approximately 3.7 cm in length in the deep 
subcutaneous tissues anterior to the right knee, worrisome for 
developing abscess.

Consults included orthopedic surgery: cellulitis with possible 
septic bursitis. No surgical indication. Given no improvement 
with IV clindamycin, recommended admission for IV vancomycin. 
Recommended MRSA coverage.

- Patient was given 

IV clindamycin 900mg x2, vancomycin IV 1000mg ___ 1511

- Vitals on transfer:  98.2 PO 116 / 76 75 18 98 ra 
  
 
Past Medical History:
-Immunodeficiency NOS
-Asthma
 
Social History:
___
Family History:
- brother w/ immunodeficiency (?mitochondrial d/o)
- no FH rheumatologic illnesses/joint disease
 
Physical Exam:
Admission Physical Exam:  
Vitals- 98.2 PO 116 / 76 75 18 98 ra  
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact.  No 
conjunctival pallor or injection, sclera anicteric and without 
injection.  Moist mucous membranes, good dentition.  Oropharynx 
is clear.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields.  
BACK: Skin. no spinous process tenderness. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. 
EXTREMITIES: R knee erythematous, warm, fluid appreciable on 
exam. Full ROM, pain w/ active motion, no pain with passive 
motion. Full strength b/l lower extremities
Pulses DP 2+ bilaterally.

Discharge Physical Exam
VS: 97.6 132/74 HR 70 18 98 RA  
GENERAL: AOx3, NAD
HEENT: ___, good dentition.  Oropharynx is clear.
CARDIAC: RRR, no murmurs/rubs/gallops.  No JVD.
LUNGS: CTAB w/appropriate breath sounds appreciated in all 
fields.  
BACK: Skin. no spinous process tenderness. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants. 
MSK: Knee flexion to 45 degrees, full extension.
EXT: R knee only slightly warm, minimal fluid appreciable on 
exam
though significantly improved from exam on ___. Full ROM,
improved pain w/ active motion, no pain with passive motion. 
Full
strength b/l lower extremities. Pulses DP 2+ bilaterally.
 
Pertinent Results:
LABS ON ADMISSION:
=================

___ 04:55PM BLOOD WBC-13.0* RBC-4.88 Hgb-14.4 Hct-42.7 
MCV-88 MCH-29.5 MCHC-33.7 RDW-12.1 RDWSD-39.0 Plt ___
___ 04:55PM BLOOD Neuts-70.9 Lymphs-17.7* Monos-8.9 Eos-1.7 
Baso-0.4 Im ___ AbsNeut-9.24* AbsLymp-2.31 AbsMono-1.16* 
AbsEos-0.22 AbsBaso-0.05
___ 04:55PM BLOOD Glucose-136* UreaN-21* Creat-1.1 Na-138 
K-4.0 Cl-101 HCO3-26 AnGap-15
___ 06:35AM BLOOD Calcium-9.4 Phos-4.5 Mg-2.1
___ 04:55PM BLOOD CRP-7.7*

MICRO:
=======

___ 3:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

LABS ON DISCHARGE:
===================

___ 06:15AM BLOOD WBC-8.4 RBC-5.31 Hgb-15.4 Hct-46.1 MCV-87 
MCH-29.0 MCHC-33.4 RDW-11.9 RDWSD-38.1 Plt ___
___ 06:15AM BLOOD Glucose-86 UreaN-13 Creat-1.0 Na-139 
K-4.7 Cl-100 HCO3-26 AnGap-18
___ 06:15AM BLOOD Calcium-9.9 Phos-4.8* Mg-2.1

IMAGING/OTHER STUDIES:
======================
___ Imaging US EXTREMITY LIMITED SO 

IMPRESSION:  
  
Thin sliver complex fluid measuring up to 4 mm in thickness and 
approximately 3.7 cm in length in the deep subcutaneous tissues 
anterior to the right knee, worrisome for developing abscess. 

 
Brief Hospital Course:
___ M w/ hx asthma, presumed immunodeficiency due to multiple 
recurrent infections, who presented w/ R knee pain, redness, and 
swelling found to have R knee cellulitis w/ pre-septal bursitis. 
Knee U/S w/ c/f possible developing abscess, though re-read of 
ultrasound w/ radiology c/w pre-patellar bursitis. Orthopedic 
surgery was consulted who felt that patient's knee joint was not 
involved and recommended abx therapy. Mr ___ was started on 
clindamycin w/ minimal improvement, transitioned to Vancomycin 
which was stopped as the patient developed mouth tingling c/f 
allergic reaction. He was thus started on a 2 week course of 
linezolid (day 1: ___, anticipated end date ___ with 
symptomatic improvement. 

==============
ACUTE ISSUES
==============

#RLE Cellulitis
#pre-patellar bursitis: presented w/ R knee pain, redness, and 
swelling found to have R knee cellulitis w/ pre-septal bursitis. 
Knee U/S w/ c/f possible developing abscess, though re-read of 
ultrasound w/ radiology c/w pre-patellar bursitis. Orthopedic 
surgery was consulted who felt that patient's knee joint was not 
involved and recommended abx therapy. Mr ___ was started on 
clindamycin w/ minimal improvement, transitioned to Vancomycin 
which was stopped as the patient developed mouth tingling c/f 
allergic reaction. He was thus started on a 2 week course of 
linezolid (day 1: ___, anticipated end date ___ with 
symptomatic improvement. 

=============
CHRONIC ISSUES
=============

#Asthma: 
-cont home Qvar (beclomethasone dipropionate) 40 mcg/actuation 
inhalation Q24H (patient using own) 
-cont home azelastine 0.15 % (205.5 mcg) nasal Q24H (patient 
using own)
-cont home Cetirizine 10 mg PO DAILY 
-cont home Fluticasone Propionate NASAL 2 SPRY NU DAILY 

#Immunodeficiency NOS: Followed by ___ at ___. Per 
patient and family, patient has presumed immunodeficiency due to 
multiple recurrent infections

Transitional Issues:
MEDICATION CHANGES
- Linezolid (day 1: ___, anticipated end date ___ for 
pre-septal cellulitis/bursitis

LAB TESTS PENDING AT DISCHARGE:
**Blood Cx 2 (___)

- Would encourage patient and family keep a list of patient's 
allergies with reactions specified for future 
illnesses/hospitalization
- Ensure outpatient follow up with orthopedic surgery in 2 weeks 
to ensure resolution of bursitis/cellulitis

CODE STATUS: Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Qvar (beclomethasone dipropionate) 40 mcg/actuation 
inhalation Q24H 
2. azelastine 0.15 % (205.5 mcg) nasal Q24H 
3. Cetirizine 10 mg PO DAILY 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Linezolid ___ mg PO Q12H Duration: 12 Days 
RX *linezolid ___ mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*24 Tablet Refills:*0 
2.  azelastine 0.15 % (205.5 mcg) nasal Q24H  
3.  Cetirizine 10 mg PO DAILY  
4.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
5.  Qvar (beclomethasone dipropionate) 40 mcg/actuation 
inhalation Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
- Cellulitis w/ pre-patellar bursitis

SECONDARY DIAGNOSIS:
===================
-Asthma
-Immunodeficiency NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure being involved in your care.

Why you came in:
-you came in after your developed a red, painful knee

What we did while you were here:
-We had our orthopedic surgeons evaluate you who did not feel 
that you had an infection of your knee joint. We got imaging 
with an ultrasound that showed you have an infection of the skin 
and the bursa (sac of fluid beneath the skin).
-We started you on an antibiotic called linezolid which improved 
your symptoms.

Your next steps:
- Pick up your linezolid prescription from the pharmacy
- Continue all of your medications as indicated below
- Please make an appointment to see your primary care provider 
___ 1 week
- Please make an appointment w/ orthopedic surgery in 2 weeks

 
Followup Instructions:
___